US07067540B2
3-[3-Bromo-4-(2,4-difluorobenzyloxy)-2-oxo-2H-pyridin-1-ylmethyl]benzamide
A sealed tube containing a solution of methyl 3-[3-bromo-4-(2,4-difluorobenzyloxy)-2-oxo-2H-pyridin-1-ylmethyl]benzoate (0.1 g, 0.21 mmol) and NH3 (3 mL of a 7 N solution in MeOH, 21 mmol) was heated at 75° C. for 16 h. The reaction mixture was cooled to room temperature and the solvent was removed under reduced pressure. Trituration with Et2O/MeOH afforded a white solid (0.06 g, 64%): mp 198-201° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.02-8.00 (m, 2H), 7.85-7.75 (m, 2H), 7.70-7.60 (m, 1H), 7.45-7.30 (m, 4H), 7.17 (t, J=3 Hz, 1H), 6.60 (d, J=9 Hz, 1H), 5.32 (s, 2H), 5.18 (s, 2H). ES HRMS m/z 449.0295 (M+H C20H16BrF2N2O3 requires 449.0307).

reactant | methyl 3-[3-bromo-4-(2,4-difluorobenzyloxy)-2-oxo-2H-pyridin-1-ylmethyl]benzoate | 0.21 mmol, 0.1 g | BrC=1C(N(C=CC1OCC1=C(C=C(C=C1)F)F)CC=1C=C(C(=O)OC)C=CC1)=O | C21H16BrF2NO4
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
product | 3-[3-Bromo-4-(2,4-difluorobenzyloxy)-2-oxo-2H-pyridin-1-ylmethyl]benzamide | 0.06 g, 64% | BrC=1C(N(C=CC1OCC1=C(C=C(C=C1)F)F)CC=1C=C(C(=O)N)C=CC1)=O | C20H15BrF2N2O3
